US09145427B2
2-Chloro-1,7-naphthyridine was subjected to a Suzuki reaction with cyclopropylboronic acid; the product was reacted with benzyl bromide, and then reduced with sodium borohydride to afford 7-benzyl-2-cyclopropyl-5,6,7,8-tetrahydro-1,7-naphthyridine. Protecting group removal with 1-chloroethyl carbonochloridate provided 2-cyclopropyl-5,6,7,8-tetrahydro-1,7-naphthyridine.

reactant | 2-Chloro-1,7-naphthyridine | ClC1=NC2=CN=CC=C2C=C1 | C8H5ClN2
reactant | cyclopropylboronic acid | C1(CC1)B(O)O | C3H7BO2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium borohydride | [BH4-].[Na+]
product | 7-benzyl-2-cyclopropyl-5,6,7,8-tetrahydro-1,7-naphthyridine | C(C1=CC=CC=C1)N1CCC=2C=CC(=NC2C1)C1CC1 | C18H20N2
